US08614206B2
To a solution of 5-(tert-butoxycarbonylamino)thiazole-4-carboxylic acid (1.72 g, 10 mmol) in DCM (50 mL) was added in three portions NBS (1.95 g, 11 mmol); the reaction mixture was stirred at ambient temperature for 1 h. Reaction was concentrated in vacuo; resulted residue was purified by silica gel column chromatography (6:1 Pet-ether-EtOAc) to afford 2-bromo-5-(tert-butoxycarbonylamino)thiazole-4-carboxylic acid (1.75 g, 70%) as white solid: 1H-NMR (CDCl3, 500 MHz) δ (ppm): 13.65 (s, 1H), 10.03 (s, 1H), 1.49 (s, 9H). MS (ESI) m/z: 324 [M+H+]

reactant | 5-(tert-butoxycarbonylamino)thiazole-4-carboxylic acid | 10 mmol, 1.72 g | C(C)(C)(C)OC(=O)NC1=C(N=CS1)C(=O)O | C9H12N2O4S
reactant | NBS | 11 mmol, 1.95 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-(tert-butoxycarbonylamino)thiazole-4-carboxylic acid | 1.75 g, 70% | BrC=1SC(=C(N1)C(=O)O)NC(=O)OC(C)(C)C | C9H11BrN2O4S
